US09388185B2
1-(5-(2-(3,5-Dimethoxyphenethyl)-5H-pyrrolo[2,3-b]pyrazin-6-yl)pyridin-2-yl)pyrrolidin-2-one
The compound was prepared by using procedures analogous to those described for the synthesis of Example 53, Step 2 starting from 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazine and 1-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]pyrrolidin-2-one (from JPM2 Pharmaceuticals). LCMS calculated for C25H26N5O3 (M+H)+: m/z=444.2. Found 444.2.

reactant | 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazine | BrC1=CC=2C(=NC=C(N2)CCC2=CC(=CC(=C2)OC)OC)N1 | C16H16BrN3O2
reactant | 1-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]pyrrolidin-2-one | CC1(OB(OC1(C)C)C=1C=CC(=NC1)N1C(CCC1)=O)C | C15H21BN2O3
product | 1-(5-(2-(3,5-Dimethoxyphenethyl)-5H-pyrrolo[2,3-b]pyrazin-6-yl)pyridin-2-yl)pyrrolidin-2-one | COC=1C=C(CCC=2N=C3C(=NC2)NC(=C3)C=3C=CC(=NC3)N3C(CCC3)=O)C=C(C1)OC | C25H25N5O3
